US20010029256A1
3-(4-[2-(Dibenzo[b,f]-1,4-thiazepin-11-ylamino)-ethoxy]-phenyl)-2-ethoxy-propionic acid
3-(4-[2-(Dibenzo[b,f]-1,4-thiazepin-11-ylamino)-ethoxy]-phenyl)-2-ethoxy-propanoic acid ethyl ester (1.6 g, 3.26 mmol) was dissolved in ethanol (30 ml) and 20% sodium hydroxide (3 ml) was added. After 6 days ethanol was evaporated in vacuo, water (50 ml) and acetic acid (3 ml) were added, the product was filtered off and dried yielding 1.4 g (87%) of the title compound as hydrate. 1H NMR (250 MHz, DMSO-d6) δ7.3-7.6 (m, 6 H), 7.10-7.25 (m, 3 H), 6.82-7.15 (m+bs, 4-5 H), 4.26 (bt, J=4.9 Hz, 2 H), 3.88 (dd, J=7.6 Hz and 4.2 Hz, 1 H), 3.78 (bs, 2 H), 3.54 (m)+3.25 (m), 2 H; 2.91 (bdd, 1 H), 2.70-2.82 (m, 1 H), 1.03 (t, J=7.2 Hz, 3 H).

reactant | 3-(4-[2-(Dibenzo[b,f]-1,4-thiazepin-11-ylamino)-ethoxy]-phenyl)-2-ethoxy-propanoic acid ethyl ester | 3.26 mmol, 1.6 g | C(C)OC(C(CC1=CC=C(C=C1)OCCNC1=NC2=C(SC3=C1C=CC=C3)C=CC=C2)OCC)=O | C28H30N2O4S
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(4-[2-(Dibenzo[b,f]-1,4-thiazepin-11-ylamino)-ethoxy]-phenyl)-2-ethoxy-propionic acid | 1.4 g, 87% | C1=CC=CC2=C1C(=NC1=C(S2)C=CC=C1)NCCOC1=CC=C(C=C1)CC(C(=O)O)OCC | C26H26N2O4S
